US06117885
A. 3-[(2'-Cyano[1,1'-biphenyl]-4-yl)oxy]-2-ethyl-4-quinolinecarboxylic acid, ethyl ester
A mixture containing the title C compound of Example 2, 3-[(2'-cyano[1,1'-biphenyl]-4-yl)oxy]-2-ethyl-4-quinolinecarboxylic acid (707 mg, 1.79 mmol), ethyl iodide (559 mg, 3.58 mmol), and cesium carbonate (1.46 g, 4.48 mmol) in dimethylformamide (4 mL) was stirred at room temperature for nine hours, then diluted with a mixture of acetone and ethyl acetate and filtered. The filtrate was concentrated in vacuo and the product extracted into ethyl acetate. The organic extract was rinsed with water and brine, dried (magnesium sulfate), and concentrated in vacuo to afford a crude product (720 mg). Flash chromatography on Merck silica gel (30 g) eluted with 1:1 hexanes:ethyl acetate afforded the title compound (703 mg, 93% yield).

reactant | 3-[(2'-cyano[1,1'-biphenyl]-4-yl)oxy]-2-ethyl-4-quinolinecarboxylic acid | 1.79 mmol, 707 mg | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)OC=1C(=NC2=CC=CC=C2C1C(=O)O)CC | C25H18N2O3
reactant | ethyl iodide | 3.58 mmol, 559 mg | C(C)I | C2H5I
reactant | cesium carbonate | 4.48 mmol, 1.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(2'-Cyano[1,1'-biphenyl]-4-yl)oxy]-2-ethyl-4-quinolinecarboxylic acid, ethyl ester | 703 mg, 93% yield | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)OC=1C(=NC2=CC=CC=C2C1C(=O)OCC)CC | C27H22N2O3
